US04625048
A solution of 2.5 g of 2-[p-(p-fluorophenoxy)phenoxy]-ethanol in 25 ml of dimethylformamide is added dropwise during 20 minutes while stirring to a suspension of 0.5 g of sodium hydride (55% in oil) in 5 ml of dimethylformamide. The mixture is then allowed to stir at 40° C. for 4 hours, then treated dropwise with 1.18 g of dimethylcarbamoyl chloride and allowed to react at 40° C. for 16 hours. The cooled mixture is poured into 75 ml of ice/water and extracted three times with 50 ml of ethyl acetate each time. The extracts are washed three times with 50 ml of water each time, dried and evaporated. The residue is purified by chromatography on silica gel with n-hexane/ethyl acetate (85:15) to yield pure [2-[p-(p-fluorophenoxy)phenoxy]-ethyl]N,N-dimethylcarbamate; nD20 =1.5444.

reactant | 2-[p-(p-fluorophenoxy)phenoxy]-ethanol | 2.5 g | FC1=CC=C(OC2=CC=C(OCCO)C=C2)C=C1 | C14H13FO3
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | dimethylcarbamoyl chloride | 1.18 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | [2-[p-(p-fluorophenoxy)phenoxy]-ethyl]N,N-dimethylcarbamate | FC1=CC=C(OC2=CC=C(OCCOC(N(C)C)=O)C=C2)C=C1 | C17H18FNO4
